US07034015B2
Preparation 3: (3E)-2-methyl-4-(tributylstannyl)but-3-en-2-ol (Compound 403)
A mixture of 2-methylbut-3-yn-2-ol (2.00 g), tributyltinhydride (10.5 g) and αα′-azobisisobutyronitrile (190 mg) was heated (neat) to 80° C. under stirring. After 4 h the reaction mixture was cooled to room temperature. The crude product was purified by chromatography eluting with petroleum ether/Et2O 7:1 to afford the title compound as a liquid.

reactant | 2-methylbut-3-yn-2-ol | 2.00 g | CC(C)(C#C)O | C5H8O
reactant | tributyltinhydride | 10.5 g | C(CCC)[SnH](CCCC)CCCC
product | (3E)-2-methyl-4-(tributylstannyl)but-3-en-2-ol | CC(C)(\C=C\[Sn](CCCC)(CCCC)CCCC)O | InChI=1S/C5H9O.3C4H9.Sn/c1-4-5(2,3)6;3*1-3-4-2;/h1,4,6H,2-3H3;3*1,3-4H2,2H3;
